US09108977B2
A solution of 200 mg of t-butyl 11-bromo-1-(2-methoxyethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate, 34 mg of zinc cyanide, 13 mg of bis(tri-t-butylphosphine)palladium, and 10 mg of zinc powder in 4 ml of N,N-dimethylacetamide was substituted with argon and then stirred at 100° C. for 15 hours. The reaction mixture was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 132 mg of t-butyl 11-cyano-1-(2-methoxyethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate as a colorless viscous substance.

reactant | t-butyl 11-bromo-1-(2-methoxyethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 200 mg | BrC=1C2=C(C=C3CCCN(C13)CCOC)CCN(CC2)C(=O)OC(C)(C)C | C21H31BrN2O3
reactant | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
catalyst | zinc cyanide | 34 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | bis(tri-t-butylphosphine)palladium | 13 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | zinc | 10 mg | [Zn] | Zn
product | t-butyl 11-cyano-1-(2-methoxyethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 132 mg | C(#N)C=1C2=C(C=C3CCCN(C13)CCOC)CCN(CC2)C(=O)OC(C)(C)C | C22H31N3O3
